US07410974B2
6,7-Difluoro-2-[2-(5-nitro-2-furyl)vinyl]-4-(p-hydroxyanilino)quinazoline (XI)
This compound was prepared in the same manner as that described in Example I or the synthesis of 6-fluoro-2-[2-(5-nitro-2-furyl)vinyl]-4-(p-hydroxyanilino)quinazoline, by using 6,7-difluoro-2-methyl-4-(3H)quinazolinone (1 g) as a starting material.

reactant | 6-fluoro-2-[2-(5-nitro-2-furyl)vinyl]-4-(p-hydroxyanilino)quinazoline | FC=1C=C2C(=NC(=NC2=CC1)C=CC=1OC(=CC1)[N+](=O)[O-])NC1=CC=C(C=C1)O | C20H13FN4O4
reactant | 6,7-difluoro-2-methyl-4-(3H)quinazolinone | 1 g | FC=1C=C2C(NC(=NC2=CC1F)C)=O | C9H6F2N2O
product | 6,7-Difluoro-2-[2-(5-nitro-2-furyl)vinyl]-4-(p-hydroxyanilino)quinazoline | FC=1C=C2C(=NC(=NC2=CC1F)C=CC=1OC(=CC1)[N+](=O)[O-])NC1=CC=C(C=C1)O | C20H12F2N4O4
